US08629271B2
a) 7-(2-Chloro-acetyl)-4-hydroxy-3H-benzothiazol-2-one
Ethanol (1500 mL) was added to a mixture of 7-acetyl-4-hydroxy-3H-benzothiazol-2-one (150 g) (WO2004/016578) and benzyltrimethylammonium dichloroiodate (374 g) in a flask fitted with an overhead stirrer. The mixture was heated to 78° C. for 1 h and left to cool to room temperature overnight. The mixture was poured into water (2 L), and the precipitate collected by filtration, washed with water, filtered to near dryness, and suspended in ethyl acetate. The mixture was heated to reflux and allowed to cool to room temperature with stirring. The solid was collected by filtration, washed with cold ethyl acetate (200 mL) then re-suspended in diethyl ether (1 L). The solid was collected, filtered again and washed with ether (200 mL) and dried in vacuo to give the subtitled compound. Yield 164 g.

reactant | Ethanol | 1500 mL | C(C)O | C2H6O
reactant | 7-acetyl-4-hydroxy-3H-benzothiazol-2-one | 150 g | C(C)(=O)C1=CC=C(C=2NC(SC21)=O)O | C9H7NO3S
reactant | benzyltrimethylammonium dichloroiodate | 374 g | I(=O)(=O)Cl.I(=O)(=O)Cl.C(C1=CC=CC=C1)[N+](C)(C)C
solvent | water | 2 L | O | H2O
product | 7-(2-Chloro-acetyl)-4-hydroxy-3H-benzothiazol-2-one | ClCC(=O)C1=CC=C(C=2NC(SC21)=O)O | C9H6ClNO3S
